2147-08-23 07:23:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 [**2147-8-22**]:
   - Amio levels drawn. Amio started at 1mg/min
   - confirmed DNR/DNI w/ pt through interpreter and daughter
   - repleted for K of 3.8
   - TSH, fT4 WNL
   - received Lasix 100 mg IV x 2, put on 1200 cc fluid restriction
   - TTE: EF 20-25%, mod-severe MR (worse since last study), mod-severe
   pulm HTN (pressures>60), no thrombus
   - lidocaine gtt D/Ced 6pm
   - [**Hospital1 328**] records obtained: last ICD check on [**2147-6-16**] by [**Doctor Last Name 5550**] showed
   no firings since [**2147-3-10**].
   - [**2146-9-23**] note ([**Doctor Last Name **]): pt decreased from amio 300 daily to 200
   daily, was also previously on sprionolactone 25 mg, potassium,
   lisinopril 5 mg in addition to known meds.
   - pt very stubborn O/N regarding fluid restriction, sitting on edge of
   bed, spoke w/ interpreter on phone and he agreed to lie down with ice
   chips. Received ativan 1.5 mg PO (dose at rehab)
   - desated to 81% at 1am and set off apnea alarm while sleeping. Would
   not tolerate face mask, but sat's improved 95-98% (also had 40s apnea
   during nap earlier in day). Sleep apnea vs. s/e of Ativan
   - continued to be agitated, uncooperative, thrashing, required waist
   belt restraint at 4:30am
   Allergies:
   Morphine
   Nausea/Vomiting
   Mirtazapine
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Amiodarone - 1 mg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2147-8-23**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2147-8-23**] 06:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.2
C (97.1
   HR: 70 (70 - 81) bpm
   BP: 110/61(73) {77/34(44) - 127/84(91)} mmHg
   RR: 26 (15 - 30) insp/min
   SpO2: 98%
   Heart rhythm: V Paced
   Wgt (current): 82.2 kg (admission): 87 kg
             Total In:
                                                                  2,438 mL
                                                                    655 mL
   PO:
                                                                  1,300 mL
                                                                    480 mL
   TF:
   IVF:
                                                                  1,138 mL
                                                                    175 mL
   Blood products:
   Total out:
                                                                  2,260 mL
                                                                    280 mL
   Urine:
                                                                  2,260 mL
                                                                    280 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    178 mL
                                                                    375 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula, Face tent
   SpO2: 98% on
   ABG: ///20/
   Physical Examination
   GENERAL: Elderly man, blind, pleasant and anxious, in NAD.
   HEENT: Decreased visual acuity bilaterally. Sclera anicteric. PERRL, No
   pallor or cyanosis of the oral mucosa. No xanthalesma.
   NECK: Supple with JVP of 9 cm.
   CARDIAC: PMI located in 5th intercostal space, midclavicular line. RR,
   normal S1, S2. No m/r/g. No thrills, lifts. No S3 or S4.
   LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp were
   unlabored, no accessory muscle use. Bronchial breath sounds in right
   middle lobe.  No crackles appreciated.
   ABDOMEN: Soft, NTND. No HSM or tenderness. Abd aorta not enlarged by
   palpation. No abdominial bruits.  RUQ scar
   EXTREMITIES: s/p Left leg BKA.  1+ edema in RLE.
   SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.
   PULSES:
   Right: DP 2+ PT 2+
   Left: BKA
   Labs / Radiology
   263 K/uL
   13.8 g/dL
   140 mg/dL
   1.2 mg/dL
   20 mEq/L
   4.2 mEq/L
   25 mg/dL
   99 mEq/L
   134 mEq/L
   41.9 %
   14.7 K/uL
        [image002.jpg]
                             [**2147-8-21**]  10:18 PM
                             [**2147-8-22**]  01:57 AM
                             [**2147-8-22**]  11:46 AM
                             [**2147-8-22**]  04:29 PM
                             [**2147-8-23**]  04:04 AM
   WBC
   8.6
   8.8
   14.7
   Hct
   40.3
   37.7
   41.9
   Plt
   255
   252
   263
   Cr
   1.0
   1.0
   1.1
   1.2
   TropT
   0.03
   0.03
   0.02
   Glucose
   151
   136
   160
   140
   Other labs: PT / PTT / INR:14.3/28.7/1.2, CK / CKMB /
   Troponin-T:54//0.02, Differential-Neuts:86.1 %, Lymph:9.3 %, Mono:4.3
   %, Eos:0.2 %, Ca++:9.6 mg/dL, Mg++:1.9 mg/dL, PO4:4.5 mg/dL
   TSH:0.30
   Free-T4:1.3
   Assessment and Plan
   Assessment and Plan
   The patient is a 86 yo man with h/o CAD s/p MI and CABG in [**2136**], s/p
   AICD, AFib, who presents from [**Hospital 328**] Rehab with ICD firing for VTach.
   .
   # VTach:  The patient had approximately 8 episodes of VTach yesterday
   afternoon prior to admission, for which his ICD fired.  He became
   unresponsive for approximately 5-10 seconds during these episodes and
   regained consciousness with ICD firing.  It appears that the patient
   was not taking Amiodarone at [**Hospital 328**] Rehab. Device interogation showed
   25 firings in last few weeks.  He was given a Lidocaine bolus in the ED
   and was started on Lidocaine and Amiodarone gtts in the CCU.
    - Lidocaine gtt D/Ced last evening
    - Transition amiodarone gtt to PO today, 400 mg TID, then 400mg Qdaily
   on discharge for one month.
    - F/U Amiodarone level (sendout)
    - TSH, free T4 WNL, monitor since pt had issues w/ hypothyroidism in
   past
    - Cont home Digoxin
    - Replete K > 4.0 and Mg > 2.0 (gave Mg this AM)
   .
   #. Systolic CHF:  The patient appeared slightly fluid overloaded on
   physical exam (1+ edema in RLE, crackles heard on initial exam) ON.  He
   was given Lasix 100 mg x 2 yesterday with good UOP but due to drips and
   fluid intake, pt was still even in 24 hrs.
   - goal today even to 500mL negative, start with 80mg PO Lasix.
   - F/U repeat CXR this am
   - 1200cc fluid restriction
   .
   #. CAD:  The patient has a history of CAD s/p MI and CABG in [**2136**].  He
   currently has chest pain in the setting of ICD firing.  First troponin
   was slightly elevated at 0.02.  No acute ST-T wave changes were
   appreciated on ECG.
   - CE trending down as of 10am [**8-22**], no need to cont trending for now.
    - Continue to monitor on telemetry.
    - Continue home doses of ASA, Imdur, Zocor, Nitroglycerine.
    - Cont on home Atenolol 12.5 mg [**Hospital1 7**]
   - Start lisinopril 2.5 Qdaily.
   .
   # LEUKOCYTOSIS: Pt WBC increased from 8.8 to 14.7 today. Afebrile, CXR
   from [**8-22**] no e/o pneumonia.
   -         UA with add-on Urine culture if needed.
   -         f/u repeat CXR
   -         monitor fever curve and WBC
   -         .
   #?SLEEP APNEA: Pt has had two episodes of desat
s to 80
s during sleep.
   Will not comply with face mask, CPAP not practical. Cont on NC when
   sleeping.
   .
   # MS/BEHAVIOR: Pt has no mental status changes, remained lucid and
   oriented per interpreter overnight, despite being uncooperative.
   -         cont Ativan 1.5 mg prn agitation
   -         involve interpreter on phone when possible
   .
   #. Blindness:  The patient has a history of blindness, of unknown
   etiology.  He currently takes Alphagen, Trusopt, and Xalatam eye gtts.
    - Continue home regimen of eye gtts
   .
   #. Anxiety:  Continue Ativan 1.5 mg qhs and Lorazepam 0.5 mg q4h prn
   for anxiety.
   .
   # Depression:  Continue home dose of Lexapro.
   .
   ICU Care
   Nutrition: Aggressively replete K>4.0, Mg>2.0. Start diabetic low salt
   diet.
   Glycemic Control:
   Lines: Peripheral IVs
   20 Gauge - [**2147-8-21**] 10:58 PM
   Prophylaxis:
   DVT: SQ heparin
   Pain: Tylenol PRN
   Bowel: Colace and Senna PRN
   Stress ulcer:
   VAP:
   Communication:  With patient through interpreter
   Code status: DNR/DNI
 confirmed with nursing home which faxed form
   signed by daughter/patient in [**2145**]
   Disposition: Call out to medicine
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   History
   per housestaff
   nothing to add
   Physical Examination
   per housestaff
   nothing to add
   Medical Decision Making
   per housestaff
   nothing to add
   Above discussed extensively with patient.
   Total time spent on patient care: 60 minutes of critical care time.
   Additional comments:
   no more vt
   switch iv to po amiodarone 1200 mg a day for 7 days then 400 mg a day
   thereafter
   transfer to [**Hospital Ward Name **] 3
   will need to discuss DNR status with family and patient via translator
   ------ Protected Section Addendum Entered By:[**Name (NI) 453**] [**Name (NI) 5152**]
   on:[**2147-8-23**] 09:02 ------

2147-08-24 07:19:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: None
   24 Hour Events:
   [**2147-8-23**]
   - Pt had episode of VT in afternoon, was not defibrillated by ICD given
   that it was sensed as intermittent nonsustained VT; bolused 300mg IV
   Amiodarone and started on Amiodarone gtt at 1mg/min; also continued on
   Amiodarone 400mg TID
   - No more episodes of VT o/n
   - Started home PO lasix 80mg daily, patient grossly positive in
   afternoon so given an additional 100mg IV lasix
   - Started on Captopril (previously on Lisinopril) which was held in the
   evening due to low BP
   - UA obtained, equivocal, sent for culture
   - Patient reaffirmed that he would like to be DNR-DNI but does not want
   his ICD turned off
   - Ordered supplemental oxygen at night given observed breathing
   patterns c/w sleep apnea
 EKG - At [**2147-8-23**] 09:33 AM
 URINE CULTURE - At [**2147-8-23**] 09:35 AM
   Allergies:
   Morphine
   Nausea/Vomiting
   Mirtazapine
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2147-8-23**] 11:15 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2147-8-24**] 06:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36
C (96.8
   HR: 70 (70 - 156) bpm
   BP: 111/67(77) {68/52(56) - 129/78(85)} mmHg
   RR: 27 (15 - 39) insp/min
   SpO2: 95%
   Heart rhythm: V Paced
   Wgt (current): 83 kg (admission): 87 kg
 82.2 yesterday
             Total In:
                                                                  2,037 mL
                                                                    370 mL
   PO:
                                                                  1,520 mL
                                                                    360 mL
   TF:
   IVF:
                                                                    517 mL
                                                                     10 mL
   Blood products:
   Total out:
                                                                  1,217 mL
                                                                    380 mL
   Urine:
                                                                  1,217 mL
                                                                    380 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    820 mL
                                                                    -10 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula 3L
   SpO2: 95%
   ABG: ////
   Physical Examination
   GENERAL: Elderly man, blind, pleasant and anxious, in NAD.
   HEENT: Decreased visual acuity bilaterally. Sclera anicteric. PERRL, No
   pallor or cyanosis of the oral mucosa. No xanthalesma.
   NECK: Supple with JVP of 9 cm.
   CARDIAC: PMI located in 5th intercostal space, midclavicular line. RR,
   normal S1, S2. No m/r/g. No thrills, lifts. No S3 or S4.
   LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp were
   unlabored, no accessory muscle use. Bronchial breath sounds in right
   middle lobe.  No crackles appreciated.
   ABDOMEN: Soft, NTND. No HSM or tenderness. Abd aorta not enlarged by
   palpation. No abdominial bruits.  RUQ scar
   EXTREMITIES: s/p Left leg BKA.  Trace edema in RLE.
   SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.
   PULSES:
   Right: DP 2+ PT 2+
   Left: BKA
   Labs / Radiology
   263 K/uL
   13.8 g/dL
   140 mg/dL
   1.2 mg/dL
   20 mEq/L
   4.2 mEq/L
   25 mg/dL
   99 mEq/L
   134 mEq/L
   41.9 %
   14.7 K/uL
        [image002.jpg]
   AM labs pending; EKG pending; Amiodarone pending
   UA: Nit neg, LeukEst trace, WBC 6, Bacteria Few, Prot30, Epi 0, Hyaline
   casts 121
                             [**2147-8-21**]  10:18 PM
                             [**2147-8-22**]  01:57 AM
                             [**2147-8-22**]  11:46 AM
                             [**2147-8-22**]  04:29 PM
                             [**2147-8-23**]  04:04 AM
   WBC
   8.6
   8.8
   14.7
   Hct
   40.3
   37.7
   41.9
   Plt
   255
   252
   263
   Cr
   1.0
   1.0
   1.1
   1.2
   TropT
   0.03
   0.03
   0.02
   Glucose
   151
   136
   160
   140
   Other labs: PT / PTT / INR:14.3/28.7/1.2, CK / CKMB /
   Troponin-T:54//0.02, ALT / AST:15/18, Alk Phos / T Bili:85/4.0,
   Differential-Neuts:86.1 %, Lymph:9.3 %, Mono:4.3 %, Eos:0.2 %, LDH:222
   IU/L, Ca++:9.6 mg/dL, Mg++:1.9 mg/dL, PO4:4.5 mg/dL
   Assessment and Plan
   The patient is a 86 yo man with h/o CAD s/p MI and CABG in [**2136**], s/p
   AICD, AFib, who presents from [**Hospital 328**] Rehab with ICD firing for VTach.
   .
   # VTach:  The patient had one episode sustained VT yesterday afternoon
   w/o ICD firing (HR150s)
 he remained conscious and mentating
   throughout the episode, although with some chest discomfort. Device
   interrogation showed no shocking in setting of interpreting VT as
   nonsustained. It appears that the patient was not taking Amiodarone at
   [**Hospital 328**] Rehab. Device interogation showed 25 firings in last month.  He
   was given a Lidocaine bolus in the ED and was started on Lidocaine and
   Amiodarone gtts in the CCU.  Lidocaine gtt was d/c
d [**8-22**] PM and pt
   transitioned to amio PO yesterday. In setting of repeat episode, Amio
   gtt was restarted in addition to PO.
   - Pt does reiterate DNR/DNI code status but wants ICD to stay on
   (through Russian interpreter)
    - F/U Amiodarone level (sendout)
    - TSH, free T4 WNL, monitor since pt had issues w/ hypothyroidism in
   past
    - Cont home Digoxin 0.125 qod
    - Replete K > 4.0 and Mg > 2.0
   .
   #. Systolic CHF:  The patient appeared slightly fluid overloaded on
   physical exam (trace edema in RLE, crackles heard on initial exam) ON.
   He was given Lasix 80mg yesterday but poor UOP so given Lasix 100mg IV
   bolus w/ good effect. Pt was still even in 8 hrs.
   - goal today even to 500mL negative, start with 80mg PO Lasix home
   dose, IV bolus in afternoon if needed.
   - 1200cc fluid restriction, daily weights
   .
   #. CAD:  The patient has a history of CAD s/p MI and CABG in [**2136**].  He
   has had chest pain in the CCU in setting of ICD firing.  First troponin
   was slightly elevated at 0.02 but trended down starting [**8-22**] 10am.  No
   acute ST-T wave changes were appreciated on ECG.
   - Continue to monitor on telemetry.
    - Continue home doses of ASA, Imdur, Zocor, Nitroglycerine.
    - Cont on home Atenolol 12.5 mg [**Hospital1 7**]
   - Start Captopril 6.25 TID as tolerated
   .
   # LEUKOCYTOSIS: Pt WBC increased from 8.8 to 14.7 today. Afebrile, CXR
   from [**8-22**] no e/o pneumonia.
   - UA equivocal. UCx sent
 will f/u
   - monitor fever curve and WBC
   .
   #SLEEP APNEA: Pt has had episodic desat
s to 80
s during sleep.
   Observed to have breathing patterns consistent w/ sleep apnea. Pt
   complied with NC o/n w/o desats episodes. Will continue with NC when pt
   is sleeping
   .
   # Mental Status/BEHAVIOR: Pt has no mental status changes, remained
   lucid and oriented per interpreter. Asks continually for ice but
   cooperative yesterday and did not try to get out of bed o/n
   -         involve interpreter on phone when possible
   .
   #. Blindness:  The patient has a history of blindness, of unknown
   etiology.  He currently takes Alphagen, Trusopt, and Xalatam eye gtts.
    - Continue home regimen of eye gtts
   .
   #. Anxiety:  Continue Ativan 1.5 mg qhs and Lorazepam 0.5 mg q4h prn
   for anxiety.
   .
   # Depression:  Continue home dose of Lexapro.
   .
 HEART FAILURE (CHF), SYSTOLIC, ACUTE ON CHRONIC
 VENTRICULAR TACHYCARDIA, SUSTAINED
 KNOWLEDGE DEFICIT
   ICU Care
   Nutrition: Aggressively replete K, Mg. Diabetic, low salt diet w/ fluid
   restriction (1200cc)
   Glycemic Control:
   Lines: Peripheral IVs
   20 Gauge - [**2147-8-23**] 09:12 AM
   Prophylaxis:
   DVT: SQ heparin
   Pain: Tylenol PRN
   Bowel: Colace, Senna PRN
   Stress ulcer:
   VAP:  Daily weights
   Comments:
   Communication:  Comments: With patient through interpreter
   Code status: DNR/DNI
 confirmed with nursing home which faxed form
   signed by daughter/patient in [**2145**]; pt did reiterate on [**2147-8-23**] that he
   wants his ICD to stay on
   Disposition: Call out to medicine

2147-08-25 07:59:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   [**2147-8-24**]
   - Lasix 80 mg IV bolus in afternoon when +300, still +100 at 11pm
   - No episodes of VTach throughout the day
   - CBC w/ diff ordered for AM in setting of increasing WBC (14.7-->16.9)
   - Na continues to drop (131--> 129), etiology unclear
   - [**Name2 (NI) 133**] try pt on just Amio PO tomorrow
   Allergies:
   Morphine
   Nausea/Vomiting
   Mirtazapine
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Amiodarone - 1 mg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2147-8-24**] 09:15 PM
   Heparin Sodium (Prophylaxis) - [**2147-8-25**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2147-8-25**] 07:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.1
   Tcurrent: 36.2
C (97.1
   HR: 70 (70 - 72) bpm
   BP: 95/42(55) {86/24(43) - 148/129(134)} mmHg
   RR: 21 (19 - 27) insp/min
   SpO2: 98%
   Heart rhythm: AV Paced
   Wgt (current): 83.4 kg (admission): 87 kg
             Total In:
                                                                  1,761 mL
                                                                    547 mL
   PO:
                                                                  1,160 mL
                                                                    360 mL
   TF:
   IVF:
                                                                    601 mL
                                                                    187 mL
   Blood products:
   Total out:
                                                                  1,620 mL
                                                                    910 mL
   Urine:
                                                                  1,620 mL
                                                                    910 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    141 mL
                                                                   -363 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///22/
   Physical Examination
   GENERAL: Elderly man, blind, pleasant and anxious, in NAD.
   HEENT: Decreased visual acuity bilaterally. Sclera anicteric. PERRL, No
   pallor or cyanosis of the oral mucosa. No xanthalesma.
   NECK: Supple with JVP of 8 cm.
   CARDIAC: PMI located in 5th intercostal space, midclavicular line. RR,
   normal S1, S2. No m/r/g. No thrills, lifts. No S3 or S4.
   LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp were
   unlabored, no accessory muscle use. Bronchial breath sounds in right
   middle lobe.  No crackles appreciated.
   ABDOMEN: Soft, NTND. No HSM or tenderness. Abd aorta not enlarged by
   palpation. No abdominial bruits.  RUQ scar
   EXTREMITIES: s/p Left leg BKA.  Trace edema in RLE.
   SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.
   PULSES:
   Right: DP 2+ PT 2+
   Left: BKA
   Labs / Radiology
   227 K/uL
   13.2 g/dL
   115 mg/dL
   1.3 mg/dL
   22 mEq/L
   3.7 mEq/L
   40 mg/dL
   93 mEq/L
   129 mEq/L
   39.9 %
   16.8 K/uL
        [image002.jpg]
                             [**2147-8-21**]  10:18 PM
                             [**2147-8-22**]  01:57 AM
                             [**2147-8-22**]  11:46 AM
                             [**2147-8-22**]  04:29 PM
                             [**2147-8-23**]  04:04 AM
                             [**2147-8-24**]  05:40 AM
                             [**2147-8-24**]  08:00 PM
                             [**2147-8-25**]  04:04 AM
   WBC
   8.6
   8.8
   14.7
   16.9
   16.8
   Hct
   40.3
   37.7
   41.9
   42.4
   39.9
   Plt
   255
   252
   263
   255
   227
   Cr
   1.0
   1.0
   1.1
   1.2
   1.4
   1.3
   1.3
   TropT
   0.03
   0.03
   0.02
   Glucose
   151
   136
   160
   140
   134
   122
   115
   Other labs: PT / PTT / INR:14.3/28.7/1.2, CK / CKMB /
   Troponin-T:54//0.02, ALT / AST:15/18, Alk Phos / T Bili:85/4.0,
   Differential-Neuts:88.5 %, Lymph:6.1 %, Mono:5.2 %, Eos:0.1 %, LDH:222
   IU/L, Ca++:8.7 mg/dL, Mg++:2.3 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
   The patient is a 86 yo man with h/o CAD s/p MI and CABG in [**2136**], s/p
   AICD, AFib, who presents from [**Hospital 328**] Rehab with ICD firing for VTach.
   .
   # VTach:  The patient had one episode sustained VT yesterday afternoon
   w/o ICD firing (HR150s)
 he remained conscious and mentating
   throughout the episode, although with some chest discomfort. Device
   interrogation showed no shocking in setting of interpreting VT as
   nonsustained. It appears that the patient was not taking Amiodarone at
   [**Hospital 328**] Rehab. Device interogation showed 25 firings in last month.  He
   was given a Lidocaine bolus in the ED and was started on Lidocaine and
   Amiodarone gtts in the CCU.  Lidocaine gtt was d/c
d [**8-22**] PM and pt
   transitioned to amio PO [**8-23**]. In setting of repeat episode, Amio gtt was
   restarted in addition to PO.
   - no further VT in 24 hrs
   - D/C amio gtt and cont on po amio 400 mg TID
    - Pt does reiterate DNR/DNI code status but wants ICD to stay on
   (through Russian interpreter)
    - F/U Amiodarone level (sendout)
    - TSH, free T4 WNL, monitor since pt had issues w/ hypothyroidism in
   past
    - Cont home Digoxin 0.125 qod
    - Replete K > 4.0 and Mg > 2.0
   - confirm that pt would want external defibrillation if  ICD fails to
   shock for VT
   .
   #. Systolic CHF:  The patient  appears euvolemic on exam.
   - goal today even negative.
   - 120 mg Lasix PO this afternoon, reassess in AM
   - no fluid restriction to imitate his home conditions. Follow daily
   weights and give Lasix prn
   .
   # HYPONATREMIA: Na has been trending down since began giving higher
   doses of Lasix, BUN and Cr has been trending up, now stable today.
   Likely due to primary polydipsia and low solute intake.
   - give juice, Ensure/fortified juices in place of ice water
   .
   #. CAD:  The patient has a history of CAD s/p MI and CABG in [**2136**].  He
   has had chest pain in the CCU in setting of ICD firing.  First troponin
   was slightly elevated at 0.02 but trended down starting [**8-22**] 10am.  No
   acute ST-T wave changes were appreciated on ECG.
   - Continue to monitor on telemetry.
    - Continue home doses of ASA, Imdur, Zocor, Nitroglycerine.
    - Cont on home Atenolol 12.5 mg [**Hospital1 7**]
   -  Start Captopril 6.25 TID as tolerated
   .
   # LEUKOCYTOSIS: Pt WBC cont to increase, stable today from yesterday.
   Afebrile, CXR from [**8-22**] no e/o pneumonia.
   - UA equivocal. UCx sent
 will f/u
   - monitor fever curve and WBC
   .
   #SLEEP APNEA: Pt has had episodic desat
s to 80
s during sleep.
   Observed to have breathing patterns consistent w/ sleep apnea. Pt
   complied with NC o/n w/o desats episodes. Will continue with NC when pt
   is sleeping
   .
   # Mental Status/Behavior: Pt has no mental status changes, remained
   lucid and oriented per interpreter. Asks continually for ice but
   cooperative yesterday and did not try to get out of bed o/n
   -          involve interpreter on phone as often as possible
   .
   #. Blindness:  The patient has a history of blindness, of unknown
   etiology.  He currently takes Alphagen, Trusopt, and Xalatam eye gtts.
    - Continue home regimen of eye gtts
   .
   #. Anxiety:  Continue Ativan 1.5 mg qhs and Lorazepam 0.5 mg q4h prn
   for anxiety.
   .
   # Depression:  Continue home dose of Lexapro.
   .
   ICU Care
   Nutrition: Aggressively replete K, Mg. Diabetict diet
   Glycemic Control:
   Lines: Peripheral IVs
   20 Gauge - [**2147-8-23**] 09:12 AM
   Prophylaxis:
   DVT: SQ heparin
   Pain: Tylenol PRN
   Bowel: Colace, Senna PRN
   Stress ulcer:
   VAP:  Daily weights
   Comments:
   Communication:  Comments: With patient through interpreter
   Code status: DNR/DNI
 confirmed with nursing home which faxed form
   signed by daughter/patient in [**2145**]; pt did reiterate on [**2147-8-23**] that he
   wants his ICD to stay on
   Disposition: CCU for now (call out tomorrow)
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   History
   per housestaff
   nothing to add
   Physical Examination
   per housestaff
   nothing to add
   Medical Decision Making
   per housestaff
   nothing to add
   Above discussed extensively with patient.
   Total time spent on patient care: 60 minutes.
   Additional comments:
   communicated with dr [**Known lastname 8689**] with a translator
   he does not want to be intubated but is willing to be defibrillated
   both through his icd as well as externally if necessary
   continue iv amiodarone and transition today to all po amiodarone
   1200 mg for one week then 400 mg thereafter
   ------ Protected Section Addendum Entered By:[**Name (NI) 453**] [**Name (NI) 5152**]
   on:[**2147-8-25**] 12:50 ------

2147-08-26 06:58:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   [**8-25**]
   - 02 sat 93-4 on RA
   - taking juices, powerade
   - Hba1c 6.1 (note: pt does not have DM!)
   - gave Lasix 120 mg PO BID
   - sent repeat direct bili 0.7, tot bili 2.8 (?[**Doctor Last Name 4871**])
   Allergies:
   Morphine
   Nausea/Vomiting
   Mirtazapine
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2147-8-26**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2147-8-26**] 06:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.9
C (98.5
   HR: 70 (70 - 72) bpm
   BP: 95/51(62) {79/47(54) - 109/77(80)} mmHg
   RR: 25 (12 - 27) insp/min
   SpO2: 97%
   Heart rhythm: AV Paced
   Wgt (current): 83.4 kg (admission): 87 kg
                  Total In:
                                                                  2,076 mL
                                                                    360 mL
   PO:
                                                                  1,820 mL
                                                                    360 mL
   TF:
   IVF:
                                                                    256 mL
   Blood products:
   Total out:
                                                                  1,890 mL
                                                                    220 mL
   Urine:
                                                                  1,890 mL
                                                                    220 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    186 mL
                                                                    140 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///23/
   Physical Examination
   GENERAL: Elderly man, blind, pleasant and anxious, in NAD.
   HEENT: Decreased visual acuity bilaterally. Sclera anicteric. PERRL, No
   pallor or cyanosis of the oral mucosa. No xanthalesma.
   NECK: Supple with JVP of 8 cm.
   CARDIAC: II/VI systolic murmur. RR, normal S1, S2. No m/r/g. No
   thrills, lifts. No S3 or S4.
   LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp were
   unlabored, no accessory muscle use. Bronchial breath sounds in right
   middle lobe.  No crackles appreciated.
   ABDOMEN: Soft, NTND. No HSM or tenderness. Abd aorta not enlarged by
   palpation. No abdominial bruits.  RUQ scar
   EXTREMITIES: s/p Left leg BKA.  Trace edema in RLE.
   SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.
   PULSES:
   Right: DP 2+ PT 2+
   Left: BKA
   Labs / Radiology
   244 K/uL
   13.8 g/dL
   105 mg/dL
   1.4 mg/dL
   23 mEq/L
   4.4 mEq/L
   36 mg/dL
   91 mEq/L
   127 mEq/L
   42.5 %
   21.2 K/uL
        [image002.jpg]
                             [**2147-8-21**]  10:18 PM
                             [**2147-8-22**]  01:57 AM
                             [**2147-8-22**]  11:46 AM
                             [**2147-8-22**]  04:29 PM
                             [**2147-8-23**]  04:04 AM
                             [**2147-8-24**]  05:40 AM
                             [**2147-8-24**]  08:00 PM
                             [**2147-8-25**]  04:04 AM
                             [**2147-8-25**]  02:20 PM
                             [**2147-8-26**]  04:15 AM
   WBC
   8.6
   8.8
   14.7
   16.9
   16.8
   21.2
   Hct
   40.3
   37.7
   41.9
   42.4
   39.9
   42.5
   Plt
   255
   252
   263
   255
   227
   244
   Cr
   1.0
   1.0
   1.1
   1.2
   1.4
   1.3
   1.3
   1.2
   1.4
   TropT
   0.03
   0.03
   0.02
   Glucose
   151
   136
   160
   140
   134
   122
   115
   135
   105
   Other labs: PT / PTT / INR:14.3/28.7/1.2, CK / CKMB /
   Troponin-T:54//0.02, ALT / AST:15/18, Alk Phos / T Bili:85/2.8,
   Differential-Neuts:88.5 %, Lymph:6.1 %, Mono:5.2 %, Eos:0.1 %, LDH:222
   IU/L, Ca++:9.0 mg/dL, Mg++:2.3 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   The patient is a 86 yo man with h/o CAD s/p MI and CABG in [**2136**], s/p
   AICD, AFib, who presents from [**Hospital 328**] Rehab with ICD firing for VTach.
   .
   # VTach:  The patient had one episode sustained VT [**8-23**] w/o ICD firing
   (HR150s)
 not shocked as read as NSVT.  It appears that the patient
   was not taking Amiodarone at [**Hospital 328**] Rehab. Device interogation showed
   25 firings in last month.  In setting of repeat episode, Amio gtt was
   restarted in addition to PO.
   - no further VT last 48 hrs
   - cont on po amio 400 mg TID
    - Pt does reiterate DNR/DNI code status but wants ICD to stay on and
   would want external defibrillation if ICD fails  (through Russian
   interpreter)
    - F/U Amiodarone level (sendout)
    - Cont home Digoxin 0.125 qod
    - Replete K > 4.0 and Mg > 2.0
   .
   #. Systolic CHF:  The patient  appears euvolemic on exam. Received 120
   mg Lasix PO last evening, UOP 30-240 cc/hr.
   - goal today even negative.
   - no fluid restriction to imitate his home conditions. Follow daily
   weights and give Lasix prn
   .
   # HYPONATREMIA: Na has been trending down since began giving higher
   doses of Lasix, BUN and Cr has been trending up. Likely euvolemic, due
   to primary polydipsia and low solute intake/high free water intake.
   - Will try free water restriction. Ensure/fortified juices in place of
   ice water. Can feed broth.
   - consider Urine lytes and Osm
   - ? SIADH.  Recheck FE Urea
   .
   # LEUKOCYTOSIS: Pt WBC cont to increase, 16 to 21.2 today. Afebrile,
   CXR from [**8-22**] no e/o pneumonia.
   - UA equivocal. UCx negative
   - repeat CXR, UA.  Check blood cx and c. diff.
   - monitor fever curve and WBC
   .
   #. CAD:  The patient has a history of CAD s/p MI and CABG in [**2136**].  He
   has had chest pain in the CCU in setting of ICD firing.  First troponin
   was slightly elevated at 0.02 but trended down starting [**8-22**] 10am.  No
   acute ST-T wave changes were appreciated on ECG.
   - Continue to monitor on telemetry.
    - Continue home doses of ASA, Imdur, Zocor, Nitroglycerine.
    - Cont on home Atenolol 12.5 mg [**Hospital1 7**]
   -  Start Captopril 6.25 TID as tolerated
   .
   .
   #SLEEP APNEA: Pt has had episodic desat
s to 80
s during sleep.
   Observed to have breathing patterns consistent w/ sleep apnea. Pt
   complied with NC o/n w/o desats episodes. Will continue with NC when pt
   is sleeping
   .
   # Mental Status/Behavior: Pt has no mental status changes, remained
   lucid and oriented per interpreter. Has recently been more cooperative.
   - interpreter at 1pm.
   .
   #. Blindness:  The patient has a history of blindness, of unknown
   etiology.  He currently takes Alphagen, Trusopt, and Xalatam eye gtts.
    - Continue home regimen of eye gtts
   .
   #. Anxiety:  Continue Ativan 1.5 mg qhs and Lorazepam 0.5 mg q4h prn
   for anxiety.
   .
   # Depression:  Continue home dose of Lexapro.
   ICU Care
   Nutrition: Aggressively replete K, Mg. Diabetict diet
   Glycemic Control:
   Lines: Peripheral IVs
   20 Gauge - [**2147-8-23**] 09:12 AM
   Prophylaxis:
   DVT: SQ heparin
   Pain: Tylenol PRN
   Bowel: Colace, Senna PRN
   Stress ulcer:
   VAP:  Daily weights
   Comments:
   Communication:  Comments: With patient through interpreter
   Code status: DNR/DNI
 confirmed with nursing home which faxed form
   signed by daughter/patient in [**2145**]; pt did reiterate on [**2147-8-23**] that he
   wants his ICD to stay on
   Disposition: call out to the floor.
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I have also reviewed the notes of Dr(s). [**Name (NI) 8374**].
   I would add the following remarks:
   Medical Decision Making
   Continuing management of CHF.  Investigating hyponatremia.
   Patient care 40 minutes.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) **], MD
   on:[**2147-8-26**] 11:06 ------